US04209516
310 ml (0.226 mole) of a 33% ethanolic dimethylamine solution is added to a suspension of 45.0 g (0.11 mole) of 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid (see DT-OS 2,159,527, page 32) and 0.5 g (0.0033 mole) of sodium iodide in 250 ml of methanol, and the mixture is stirred for 6 hours at room temperature. The clear reaction solution is concentrated in vacuo; the residue is dissolved in 200 ml of water, and 2 N hydrochloric acid solution is slowly added until the pH value of 5 is reached. After 16 hours' standing at 0°-5°, the precipitated aminic acid is filtered off and well washed with water and then with ether. Upon drying, there is obtained 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxylic acid, m.p. 222°-225° with decomposition.

reactant | dimethylamine | CNC | C2H7N
reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.11 mole, 45.0 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CCl)C(=O)O)C=CC=C1 | C17H10Cl3N3O3
reactant | sodium iodide | 0.0033 mole, 0.5 g | [I-].[Na+]
reactant | methanol | 250 ml | CO | CH4O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxylic acid | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CN(C)C)C(=O)O)C=CC=C1 | C19H16Cl2N4O3
